US08859768B2
A mixture of 3-[5-(2-chlorophenyl)-2-iodo-1,3-oxazol-4-yl]-4-{[2-(trimethylsilyl)-ethoxy]methyl}-4H-1,2,4-triazole (0.39 g, 0.78 mmol), N-[5-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-yl]acetamide (0.36 g, 1.32 mmol), tetrakis(triphenylphosphine)palladium(0) (0.18 g, 0.16 mmol) and cesium carbonate (1.64 g, 5.04 mmol) in dioxane (13 mL) and water (1.8 mL) was subjected to microwave irradiation at 150° C. for 60 min. The reaction mixture was concentrated and the residue was purified by column chromatography to give N-{4-[5-(2-chlorophenyl)-4-(4-{[2-(trimethylsilyl)ethoxy]methyl}-4H-1,2,4-triazol-3-yl)-1,3-oxazol-2-yl]-5-methylpyridin-2-yl}acetamide (0.33 g, 81%). LCMS (AA): m/z=525.1 (M+H).

reactant | 3-[5-(2-chlorophenyl)-2-iodo-1,3-oxazol-4-yl]-4-{[2-(trimethylsilyl)-ethoxy]methyl}-4H-1,2,4-triazole | 0.78 mmol, 0.39 g | ClC1=C(C=CC=C1)C1=C(N=C(O1)I)C1=NN=CN1COCC[Si](C)(C)C | C17H20ClIN4O2Si
reactant | N-[5-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-yl]acetamide | 1.32 mmol, 0.36 g | CC=1C(=CC(=NC1)NC(C)=O)B1OC(C(O1)(C)C)(C)C | C14H21BN2O3
reactant | cesium carbonate | 5.04 mmol, 1.64 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dioxane | 13 mL | O1CCOCC1 | C4H8O2
solvent | water | 1.8 mL | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.16 mmol, 0.18 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | N-{4-[5-(2-chlorophenyl)-4-(4-{[2-(trimethylsilyl)ethoxy]methyl}-4H-1,2,4-triazol-3-yl)-1,3-oxazol-2-yl]-5-methylpyridin-2-yl}acetamide | 0.33 g, 81% | ClC1=C(C=CC=C1)C1=C(N=C(O1)C1=CC(=NC=C1C)NC(C)=O)C1=NN=CN1COCC[Si](C)(C)C | C25H29ClN6O3Si
